US07268255B2
Nitrobenzene (12.31 g, 100 mmol), formic acid (80%; 278 mL, 328.0 g), a sulfided platinum catalyst (5% Pt on charcoal, Engelhard No. 43045, lot No. 08554; dry weight 1.55 g) and vanadium(v) oxide (57 mg) were charged under argon in a double-walled 0.3 L stirring vessel with temperature control. The argon flow was stopped and the slurry was heated to 91-94° C. for 2 h. HPLC analysis of the reaction mixture indicated a 79.9% yield of formanilide, accompanied by 18.3% of aniline.

reactant | Nitrobenzene | 100 mmol, 12.31 g | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | formic acid | 278 mL, 328.0 g | C(=O)O | CH2O2
catalyst | platinum | 1.55 g | [Pt] | Pt
catalyst | vanadium(v) oxide | 57 mg | [O-2].[V+5].[O-2].[O-2].[O-2].[O-2].[V+5]
product | formanilide | 79.9% yield | C(=O)NC1=CC=CC=C1 | C7H7NO
